US04816063
9-(4-Chloro-3-hydroxyphenylimino)8-thia-1,6-diazabicyclo[4.3.0]nonane-7-one (Compound No. 46)
Into a reaction flask equipped with a Dimroth condenser, 1.7 g (5 mmol) of 9-(4-chloro-3-isopropoxyphenylimino)-8-thia-1,6-diazabicyclo[4.3.0]nonane-7-one, 1.3 g (10 mmol) of aluminum chloride and 50 ml of chloroform, were charged, and refluxed under heating for 2 hours to complete the reaction.

reactant | 9-(4-chloro-3-isopropoxyphenylimino)-8-thia-1,6-diazabicyclo[4.3.0]nonane-7-one | 5 mmol, 1.7 g | ClC1=C(C=C(C=C1)N=C1SC(N2CCCCN12)=O)OC(C)C | C15H18ClN3O2S
reactant | aluminum chloride | 10 mmol, 1.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 9-(4-Chloro-3-hydroxyphenylimino)8-thia-1,6-diazabicyclo[4.3.0]nonane-7-one | ClC1=C(C=C(C=C1)N=C1SC(N2CCCCN12)=O)O | C12H12ClN3O2S
